Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ ___ woman with HTN, lumbar stenosis,
remote history of breast CA and known meningioma. She presents 
as
a transfer from ___ for neurosurgical
evaluation after a suspected seizure at home and neuroimaging
consistent with an extraaxial mass in the left middle cranial
fossa. 

She was last seen well at ~8PM on ___. At ~9AM, her son 
received
a call notifying him that she had pressed her Life Alert button.
Ms. ___ lives on the first floor of his home, but he was not at
home, so his wife ran down to check on her. She found her 
sitting
but leaning against the wall in the hallway between her bedroom
and the bathroom. She was noted to have blood in her mouth. Ms.
___ daughter in law described her as being confused and
speaking in ___ phrases that were
unintelligible. 

She later discovered a large blood stain on Ms. ___ pillow
(picture reveals a large round spot approximately the diameter 
of
a pen). 

She was taken to ___ where she had a head CT which showed a mass
lesion in the left middle cranial fossa. In comparison to
previous imaging (___), this mass had reportedly enlarged.
Neurology was consulted and recommended loading with IV Keppra
(1g) and obtaining MRI. Unfortunately, she moved during this
study, so they were not able to give gadolinium. Ultimately, the
neurology consult team recommended transfer to ___ for
neurosurgical evaluation. 

She became agitated while awaiting transfer and was given 0.5 mg
PO lorazepam (as per personal review of the ___ Epic ED
documentation). 

She has remained somnolent since that time. 

 
Past Medical History:
Problems  (Last Verified - None on file):
BREAST CANCER                                         ___      
Mastectomy, radiation                                           

HYPERTENSION                                                    

CONSTIPATION                                                    

RESTLESS LEG SYNDROME                                           

Surgical History  (Last Verified - None on file):
FEMUR FIXATION                                        ___      

 
Social History:
___
Family History:
Family History  (Last Verified ___ by ___, MD):
Relative Status   Age Problem              Onset Comments       
Mother   ___ ___  MYOCARDIAL                                
                      INFARCTION                                

Father   ___ ___  MYOCARDIAL                                
                      INFARCTION           
 
Physical Exam:
=======================
INITIAL PHYSICAL EXAM
=======================
Vitals ___, time: 18:24): 
T:  98.3
HR: 68
RR: 13  
BP:  160/71
SaO2: 99% RA

General: Somnolent. Arouses to tactile and vocal stimulation, 
but
does not fully awaken. Moans and answers ___ when asked if 
she
is in pain, states in her back and L hand. 
HEENT: NC/AT without facial or scalp lacerations or bruising.
Small amount of dried blood on her middle lower lip. Tongue with
linear dark area (?ecchymosis) on her left lateral tongue and
erythematous lesion on her R lateral tongue. No scleral icterus
noted. Tacky mucous membranes. 
Neck: Supple, full ROM
Pulmonary: breathing comfortably on RA
Cardiac: warm and ___ with brisk capillary refill
Abdomen: ND
Extremities: Venous stasis changes in her R distal lower leg.
Otheriwise, no C/C/E bilaterally.
Skin: no rashes.

Neurologic:

-Mental Status: Somnolent. Briefly arouses (will moan, say 
___
and state her name and ___ but ___ only stick out her tongue 
to
command. Does not improve with noxious, although she withdrew
appropriately. Does not follow any other directions. Speaks a
couple of words in ___ (which her son states do not make
sense). When asked if she is in pain, she answers ___, back,
hand." Speech was not dysarthric. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 2 to 1mm and brisk. 
III, IV, VI: horizontal EOM intact with doll's head maneuver 
V: Winces to light touch on her cheeks. 
VII: Face symmetric at rest and with grimace.
VIII: Hearing intact to ___ bilaterally.
XII: Tongue protrudes in midline.

-Motor: Moves all extremities antigravity spontaneously and in
response to light touch. 

-Sensory: Withdraws all extremities antigravity to light touch. 

-DTRs:
  Bi ___ Pat Ach
L  2   2    1   tr
R  2   2    1   tr
Plantar response was flexor bilaterally.

-Coordination: unable to test given patient's somnolence

-Gait: unable to test given patient's somnolence
.
.
============================
DISCHARGE PHYSICAL EXAM
===========================

-Mental Status: Alert and oriented, she didn't remember she had 
a
seizure, but did remember she had a growth on her brain.
Initially says ___ but then realizes it is ___.
Difficulty with ___ frequency naming. No dysarthria.

-Cranial Nerves: Impaired upgaze, breakdown of smooth pursuit,
visual fields full to finger movement. pupils right 2.5 to 2,
left 2.5 to 2 but more sluggish, face activates symmetrically 
bl.

-Motor: Moves all extremities antigravity spontaneously. 4+ bl
hamstrings, left TA ___, right TA ___. 

-Sensory: intact to LT

-Coordination: finger to nose intact with intention tremor

-Gait: broad based and uses walker (uses walker at home as well

 
Pertinent Results:
=================
ADMISSION LABS
==================

___ 05:00PM BLOOD ___ 
___ Plt ___
___ 05:00PM BLOOD ___ 
___ Im ___ 
___
___ 05:00PM BLOOD Plt ___
___ 05:00PM BLOOD ___ 
___
___ 05:00PM BLOOD ___
___ 05:15PM BLOOD ___
___ 05:05PM URINE ___ Sp ___
___ 05:05PM URINE ___ 
___
___ 05:05PM URINE RBC-<1 WBC-<1 ___ 
___
___ 05:05PM URINE ___ 
___
.
.

 
 
___ 5:05 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
.
.
BLOOD CULTURE PENDING
.
.
=====================
WORKUP AND DISCHARGE LABS
========================

___ 10:20AM BLOOD ___
___ 11:15PM BLOOD ___
___ 05:00PM BLOOD ___
___ 07:10AM BLOOD ___ 
___ Plt ___
___ 07:10AM BLOOD ___ 
___
.
.
EKG - NO ST CHANGES. LBBB THAT HAS BEEN PRESENT SINCE ___ PER 
HER ___ RECORDS. 
.
.
==============
IMAGING
================
FINGER XRAY ___
IMPRESSION:  
  
Rings overlie the fourth digit proximal phalanx, partially 
obscuring the view. 
Soft tissue swelling just distal to the rings on the fourth 
finger. 
  
Irregularity at the base of the fourth digit middle phalanx, 
raising concern 
for underlying fracture.  Diffuse osteopenia. 
.
.
CTA HEAD AND NECK ___
CT head: As seen on outside MRI from the same day, there is a 
partially 
calcified 3.0 x 2.0 cm mass in the left middle cranial fossa. No 
evidence of acute intracranial abnormality. The patient is 
status post bilateral lens replacements. 
  
CTA head: There is extensive calcification of the bilateral 
carotid siphons with extension of calcification into the C7 
communicating portion of the left internal carotid artery. There 
are mild calcifications of the M1 segment of the left MCA and A1 
segment of the left ACA. The A1 segment of the right ACA is 
aplastic, likely congenital. The bilateral anterior cerebral 
arteries arise from the left C7 communicating portion of the 
left internal carotid artery. The C7 communicating portion of 
the left internal carotid artery is displaced posteriorly by the 
middle cranial fossa mass. No evidence of stenosis, occlusion or 
aneurysm. The dural venous sinuses are patent 
.
.
=======
EEG
=======
No seizure but final read pending. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with HTN, HLD, AS, and restless
leg syndrome presenting as a transfer from OSH ED for evaluation
of possible first lifetime seizure this morning in the setting 
of
known L temporal extraaxial mass (suspect meningioma). 
Her exam the morning after admission improved and was  
significant for Left sided tongue bite, L splinted finger due to 
fracture, mild inattention missing one month on ___ backwards, 
impaired clock draw with wrong and incorrect numbers
without hands, b/l Hamstring 4+/5 and TA ___ weakness. She uses 
a
walker at baseline. 
.
She was initially loaded with 1g Keppra and given 0.5mg PO 
Ativan
at ___ before transfer. Initially at ___, she was very
somnolent with nonsensical speech prompting admission for EEG. 
.
This morning, she was awake/alert with exam as above prompting
___ concern for active seizure. The order for cvEEG Was not
discontinued fast enough and there is therefore a recording from
today with no seizure activity. Keppra decreased to 500mg BID 
for age and size.  Discharge home offered but very shaky on her 
feet and both son and RN
concerned about home safety. ___ consulted and they recommended 
home with continued home ___ and home OT. 
.
Had ___ troponin bump from 0.1 at OHS down to 0.2 here. Known 
CAD likely demand ischemia. No EKG changes or symptoms of chest 
pain or SOB. Already on ASA, Statin, and antihypertensives. 
.
Given history of recent falls and lightheadedness per family and
patient, LBBB, systolic murmur, would recommend outpatient
syncope workup with echocardiogram. However, defer this to 
outpatient provider. 

.
.
================
TRANSITIONAL ISSUES
==================
- Keppra 500mg BID started 
- Outpt Brain Tumor Clinic vs Outpatient neurology follow up
- Outpt echocardiogram deferred to outpatient provider
- ___ troponin elevation raises concern for demand ischemia, 
outpt follow up for CAD
- Home with ___
- Pt and family aware of meningioma and risk for future seizures
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Vitamin D ___ UNIT PO DAILY 
5. rOPINIRole 1 mg PO QPM 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
7. Pravastatin 20 mg PO QPM 
8. amLODIPine 5 mg PO DAILY 
9. Senna 15 mg PO Frequency is Unknown 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Docusate Sodium 100 mg PO DAILY 

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
2.  Senna 15 mg PO DAILY:PRN constipation  
3.  amLODIPine 5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Docusate Sodium 100 mg PO DAILY  
6.  Losartan Potassium 50 mg PO DAILY  
7.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
8.  Pantoprazole 40 mg PO Q24H  
9.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
10.  Pravastatin 20 mg PO QPM  
11.  rOPINIRole 1 mg PO QPM  
12.  Vitamin D ___ UNIT PO DAILY  
13.Outpatient Physical Therapy
Evaluate due to history of falls. Uses a walker at baseline. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Seizure
Meningioma

 
Discharge Condition:
Mental Status: Clear and coherent but very mildly confused on 
more detailed testing. 
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after an event that most likely represented 
seizure given the tongue bite, the blood found on your pillow, 
and your difficulty with speech after the event. The most likely 
etiology etiology for your seizures is the left sided meningioma 
that was seen on head CT and MRI Brain that was done before you 
were transferred here. 

There was no significant swelling/inflammation around the tumor. 
This is benign tumor but you will need to be followed as an 
outpatient by neurosurgery. 

To prevent future seizures, you were started on Keppra 500mg 
twice daily. You will need to take this daily and follow up as 
an outpatient with Brain Tumor Clinic vs Neurology. 

 
Followup Instructions:
___